US07037938B2
To a suspension of tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-(4-hydroxyphenyl)ethyl]carbamate (710 mg), 4-[[tert-butyl(dimethyl)silyl]oxy]phenylboronic acid (457 mg), triethylamine (1.26 ml) and powdered 4 Å molecular sieves (700 mg) in dichloromethane (18 ml) was added copper(II) acetate (330 mg), and the mixture was stirred at room temperature for 18 hours under ambient atmosphere. The resulting slurry was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give tert-butyl [2-[4-[4-[[tert-butyl(dimethyl)silyl]oxy]phenoxy]phenyl]ethyl][(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate (600 mg).

reactant | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-(4-hydroxyphenyl)ethyl]carbamate | 710 mg | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)O)O | C21H26ClNO4
reactant | 4-[[tert-butyl(dimethyl)silyl]oxy]phenylboronic acid | 457 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
reactant | triethylamine | 1.26 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 330 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | tert-butyl [2-[4-[4-[[tert-butyl(dimethyl)silyl]oxy]phenoxy]phenyl]ethyl][(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]carbamate | 600 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(OC2=CC=C(C=C2)CCN(C(OC(C)(C)C)=O)C[C@H](O)C2=CC(=CC=C2)Cl)C=C1 | C33H44ClNO5Si
